US08383821B2
(5-Bromo-2-methoxy-3-methylphenyl)methanol.
Methyl 5-bromo-2-methoxy-3-methylbenzoate (2.26 g, 8.7 mmol) was dissolved in methylene chloride (30 mL), cooled to −78° C., and treated with diisobutylaluminum hydride (1 M in methylene chloride, 26.1 mL, 26.1 mmol). After stirring at −78° C. for 1 h the reaction was quenched by a few drops of methanol (until no bubbling was observed) followed by addition of excess saturated sodium potassium tartarate (2 mL). The reaction was stirred at room temperature overnight. The layers were separated and the organic layer washed with brine (2×), dried over sodium sulfate, and concentrated to afford 2.0 g (quant). 1H-NMR (CDCl3, 500 MHz) δ 7.30-7.31 (m, 1H), 7.21-7.22 (m, 1H), 4.62 (s, 2H), 3.71 (s, 3H), 2.23 (s, 3H).

reactant | Methyl 5-bromo-2-methoxy-3-methylbenzoate | 8.7 mmol, 2.26 g | BrC=1C=C(C(=C(C(=O)OC)C1)OC)C | C10H11BrO3
reactant | diisobutylaluminum hydride | 26.1 mmol, 1 M, 26.1 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | (5-Bromo-2-methoxy-3-methylphenyl)methanol | BrC=1C=C(C(=C(C1)CO)OC)C | C9H11BrO2
